US05401734
To a solution of trifluoroacetic acid (20 ml) and anisole (10 ml) in methylene chloride (50 ml) was added benzhydryl 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl) -2-carboxymethoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylate (syn isomer) (7.0 g) at 0°~5° C. under stirring. The stirring was continued for 2 hours at the same temperature. The reaction mixture was poured into a cold mixture of diisopropyl ether (400 ml) and n-hexane (200 ml). The resulting precipitates were collected by filtration to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylic acid (syn isomer) (5.5 g).

reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 10 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | benzhydryl 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl) -2-carboxymethoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylate | 7.0 g | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)O | C27H23ClN6O7S2
reactant | diisopropyl ether | 400 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | n-hexane | 200 ml | CCCCCC | C6H14
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-carboxymethoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylic acid | 5.5 g | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)O)C1=O)=NOCC(=O)O | C14H13ClN6O7S2
